US05013863
A suspension of 1.3 g of ethyl 3-(N-benzyloxycarbonylamino)-1-hydroxy-propyl(n-butyl)phosphinate in 10 ml of concentrated aqueous hydrochloric acid is heated to reflux for 20 hours. The clear solution is cooled to room temperature and washed with 1×50 ml of dichloromethane and 1×50 ml of ether. Evaporation of the aqueous layer affords a solid which is co-evaporated with 5×50 ml of water and 5×50 ml of absolute ethanol. Drying of the solid and crystallisation from ethanol affords 3-amino-1-hydroxy-propyl(n-butyl)phosphinic acid hydrochloride, m.p. 147-150°. Dissolution of the hydrochloride salt in ethanol and treatment with propylene oxide affords, after filtration and drying, 3-amino-1-hydroxy-propyl(n-butyl)phosphinic acid, m.p. 123-125°.

reactant | ethyl 3-(N-benzyloxycarbonylamino)-1-hydroxy-propyl(n-butyl)phosphinate | 1.3 g | C(C1=CC=CC=C1)OC(=O)NCCC(O)P(OCC)(=O)CCCC | C17H28NO5P
reactant | water | 50 ml | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | 3-amino-1-hydroxy-propyl(n-butyl)phosphinic acid hydrochloride | Cl.NCCC(O)P(O)(=O)CCCC | InChI=1S/C7H18NO3P.ClH/c1-2-3-6-12(10,11)7(9)4-5-8;/h7,9H,2-6,8H2,1H3,(H,10,11);1H
